US04110447
A solution of 2.79 g of 1-isobutylideneamino-3-p-biphenylyl-butane (obtainable by boiling 3-p-biphenylylbutylamine with isobutyraldehyde in benzene for 5 hours) in 75 ml of methanol is hydrogenated, after adding 0.3 g of PtO2, at 20° and normal pressure until hydrogen absorption ceases. The mixture is filtered and worked up in the customary manner to give 1-isobutylamino-3-p-biphenylyl-butane.

reactant | 1-isobutylideneamino-3-p-biphenylyl-butane | 2.79 g | C(C(C)C)=NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H25N
solvent | methanol | 75 ml | CO | CH4O
catalyst | PtO2 | 0.3 g | O=[Pt]=O
product | 1-isobutylamino-3-p-biphenylyl-butane | C(C(C)C)NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H27N
